US07576108B2
Heat a mixture of 4-bromo-2-fluoro-l -methanesulfonyl-benzene (220 mg, 0.86 mmol), (E)-3-cyclohexyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-prop-2-en-1-ol (298 mg, 1.12 mmol), potassium carbonate (356 mg, 2.58 mmol) and tetrakis(triphenylphosphino)palladium(0) (99 mg, 86 μmol) in 40 mL toluene, 5 mL iso-propanol and 5 mL water to reflux for 2 h. After cooling to r.t. extract with ethyl acetate, wash the combined organic extracts with brine, dry them over sodium sulfate, filtrate and concentrate to obtain a brown oil. Purify the crude product by column chromatography, eluting with a gradient from 100:0 to 0:100 hexanes:ethyl acetate to obtain (E)-3-cyclohexyl-2-(3-fluoro-4-methanesulfonyl-phenyl)-prop-2-en-1-ol (238 mg) as a pale yellow oil. MS (m/e): 295 [(M−H2O)+H].

reactant | 4-bromo-2-fluoro-l -methanesulfonyl-benzene | 0.86 mmol, 220 mg | BrC1=CC(=C(C=C1)S(=O)(=O)C)F | C7H6BrFO2S
reactant | (E)-3-cyclohexyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-prop-2-en-1-ol | 1.12 mmol, 298 mg | C1(CCCCC1)/C=C(/CO)\B1OC(C(O1)(C)C)(C)C | C15H27BO3
reactant | potassium carbonate | 2.58 mmol, 356 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | iso-propanol | 5 mL | C(C)(C)O | C3H8O
solvent | water | 5 mL | O | H2O
catalyst | tetrakis(triphenylphosphino)palladium(0) | 86 μmol, 99 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd-4](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | (E)-3-cyclohexyl-2-(3-fluoro-4-methanesulfonyl-phenyl)-prop-2-en-1-ol | 238 mg | C1(CCCCC1)/C=C(/CO)\C1=CC(=C(C=C1)S(=O)(=O)C)F | C16H21FO3S
